US06528525B1
Sodium 3-[4-[2-[2-(2,2,3,3-tetrafluoropropoxy)pyridine-5-carbonylamino]ethoxy]phenyl]-2-(4-isopropylphenoxy)propionate (exemplification No. 7-236 compound)
In a similar manner to that described in Example 2, ethyl 3-[4-[2-[2-(2,2,3,3-tetrafluoropropoxy)pyridine-5-carbonylamino]ethoxy]phenyl]-2-(4-isopropylphenoxy)propionate (73 mg), which is the product of Example 102, was reacted with aqueous sodium hydroxide solution (1N, 0.13 ml) and the reaction mixture was treated to give the title compound (51 mg) as colorless crystals.

reactant | ethyl 3-[4-[2-[2-(2,2,3,3-tetrafluoropropoxy)pyridine-5-carbonylamino]ethoxy]phenyl]-2-(4-isopropylphenoxy)propionate | 73 mg | FC(COC1=NC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C(C)C)(C(F)F)F | C31H34F4N2O6
reactant | sodium hydroxide | 1N, 0.13 ml | [OH-].[Na+]
product | Sodium 3-[4-[2-[2-(2,2,3,3-tetrafluoropropoxy)pyridine-5-carbonylamino]ethoxy]phenyl]-2-(4-isopropylphenoxy)propionate | 51 mg | FC(COC1=NC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)[O-])OC1=CC=C(C=C1)C(C)C)(C(F)F)F.[Na+] | InChI=1S/C29H30F4N2O6.Na/c1-18(2)20-5-10-23(11-6-20)41-24(27(37)38)15-19-3-8-22(9-4-19)39-14-13-34-26(36)21-7-12-25(35-16-21)40-17-29(32,33)28(30)31;/h3-12,16,18,24,28H,13-15,17H2,1-2H3,(H,34,36)(H,37,38);/q;+1/p-1
